US08809376B2
{(S)-6-[(R)-5-cyano-4-(3-cyano-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 3-cyano-benzylzinc bromide following a procedure analogous to that described in Step 6 of Intermediate 1. LC (method 4): tR=1.18 min; Mass spectrum (ESI+): m/z=487 [M+Na]+.

reactant | {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)Br)=O | C21H18BrNO4
reactant | 3-cyano-benzylzinc bromide | [Br-].C(#N)C=1C=C(C[Zn+])C=CC1
product | {(S)-6-[(R)-5-cyano-4-(3-cyano-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)CC2=CC(=CC=C2)C#N)=O | C29H24N2O4
